US08008332B2
Compound 13: 2-(1,3-dioxoisoindolin-2-yl)-4-methyl-N-(thiazol-2-yl)pentanamide
Referring to Scheme 3, a mixture of 2-(1,3-dioxoisoindolin-2-yl)-4-methylpentanoic acid (78 mg, 0.3 mmol), 2-aminothiazole (30 mg, 0.3 mmol), HBTU (114 mg, 0.3 mmol) and 0.1 mL of Et3N in DMF (2 mL) was stirred at room temperature for 2 hours to provide the title compound, which was then purified by HPLC. 1H NMR (400 MHz, MeOH-d4) δ: 7.83-7.86 (m, 2H), 7.89-7.92 (m, 2H), 7.41 (d, J=3.2 Hz, 1H), 7.12 (d, J=3.2 Hz, 1H), 5.15 (dd, J=4.8, 11.6 Hz, 2H), 2.35-2.45 (m, 1H), 1.96-2.05 (m, 1H), 1.51 (m, 1H), 0.99 (d, J=6.4 Hz, 3H), 0.95 (d, J=6.4 Hz, 3H). [M+H] calc'd for C17H17N3O3S, 344. found, 344.

reactant | 2-(1,3-dioxoisoindolin-2-yl)-4-methylpentanoic acid | 0.3 mmol, 78 mg | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)O)CC(C)C | C14H15NO4
reactant | 2-aminothiazole | 0.3 mmol, 30 mg | NC=1SC=CN1 | C3H4N2S
reactant | HBTU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(1,3-dioxoisoindolin-2-yl)-4-methyl-N-(thiazol-2-yl)pentanamide | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)NC=1SC=CN1)CC(C)C | C17H17N3O3S
